US04006145
478 g of 3-bromo-6-(phenylthio)-benzoic acid in 1.5 litres of methanol and 200 ml of concentrated sulphuric acid are heated under reflux for 8 hours. The solution is concentrated under reduced pressure, treated with water and extracted with water. The organic solution is washed with aqueous sodium bicarbonate solution, dried over magnesium sulphate and concentrated under reduced pressure. There is obtained methyl 3-bromo-6-(phenylthio)-benzoate as a yellow oil.

reactant | 3-bromo-6-(phenylthio)-benzoic acid | 478 g | BrC=1C=C(C(=O)O)C(=CC1)SC1=CC=CC=C1 | C13H9BrO2S
reactant | methanol | 1.5 litres | CO | CH4O
solvent | sulphuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
product | methyl 3-bromo-6-(phenylthio)-benzoate | BrC=1C=C(C(=O)OC)C(=CC1)SC1=CC=CC=C1 | C14H11BrO2S
